US06054453
Ethyl 3-[4-[2-(phenoxazin-10-yl)ethoxy]phenyl]-2-butoxypropanoate:
The title compound (0.25 g, 53%) was prepared as a colorless liquid from 2-(phenoxazin-10-yl)ethyl methanesulfonate (0.3 g, 0.98 mmol) and ethyl 2-butoxy-3-(4-hydroxyphenyl)propanoate (0.26 g, 0.97 mmol) obtained in preparation 6 by an analogous procedure to that described in example 6 (Method B).

reactant | 2-(phenoxazin-10-yl)ethyl methanesulfonate | 0.98 mmol, 0.3 g | CS(=O)(=O)OCCN1C2=CC=CC=C2OC=2C=CC=CC12 | C15H15NO4S
reactant | ethyl 2-butoxy-3-(4-hydroxyphenyl)propanoate | 0.97 mmol, 0.26 g | C(CCC)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C15H22O4
product | Ethyl 3-[4-[2-(phenoxazin-10-yl)ethoxy]phenyl]-2-butoxypropanoate | 0.25 g, 53% | C1=CC=CC=2OC3=CC=CC=C3N(C12)CCOC1=CC=C(C=C1)CC(C(=O)OCC)OCCCC | C29H33NO5
